US03976786
A mixture of 3,5-dinitroaniline (5.0 g.), cyclopropanecarboxylic anhydride (15 ml.) and two drops of concentrated sulphuric acid was warmed on the steam bath for 5 minutes and then allowed to stand for 2 hours at room temperature. The reaction mixture was diluted with diethyl ether (200 ml.), the colourless crystalline precipitate was filtered off, and crystallised from methanol containing a small amount of water, to give 3',5'-dinitrocyclopropanecarboxanilide (2.8 g.), m.p. 147°-149°C.

reactant | 3,5-dinitroaniline | 5.0 g | [N+](=O)([O-])C=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5N3O4
reactant | cyclopropanecarboxylic anhydride | 15 ml | C1(CC1)C(=O)OC(=O)C1CC1 | C8H10O3
catalyst | sulphuric acid | two drops | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 3',5'-dinitrocyclopropanecarboxanilide | 2.8 g | [N+](=O)([O-])C=1C=C(NC(=O)C2CC2)C=C(C1)[N+](=O)[O-] | C10H9N3O5
